US04824892
3 g of trifluoromethanesulfonic acid, 0.1 g of hydroquinone and 0.1 g of hydroquinone monomethyl ether were added to a solution of 48.5 g (0.1 mole) of 1,3-bis-(4-benzoyl-3-hydroxyphenoxy)-2-propanol and 43.6 g (0.6 mole) of acrylic acid in 600 ml of toluene, and the solution was heated for 3 hours at a temperature of 105° to 110° C. After cooling to room temperature, the reaction mixture was washed with 1.5 liters of water. The toluene was then distilled off from the reaction mixture under a pressure of 20 mbar. The oily residue remaining was dissolved in hot ethanol. Cooling this solution to room temperature gave 40 g (75 percent of theory) of 1,3-bis-(4-benzoyl-3-hydroxyphenoxy)-prop-2-yl acrylate in the form of colorless crystals having a melting point of 98° to 100° C. and a purity of 99 percent (HPLC). The UV spectrum gave two absorption maxima at wave lengths of 287 nm (extinction 0.520; extinction coefficient 28,100) and 324 nm (extinction 0.335; extinction coefficient 18,100).

reactant | trifluoromethanesulfonic acid | 3 g | FC(S(=O)(=O)O)(F)F | CHF3O3S
reactant | 1,3-bis-(4-benzoyl-3-hydroxyphenoxy)-2-propanol | 0.1 mole, 48.5 g | C(C1=CC=CC=C1)(=O)C1=C(C=C(OCC(COC2=CC(=C(C=C2)C(C2=CC=CC=C2)=O)O)O)C=C1)O | C29H24O7
reactant | acrylic acid | 0.6 mole, 43.6 g | C(C=C)(=O)O | C3H4O2
solvent | toluene | 600 ml | C1(=CC=CC=C1)C | C7H8
catalyst | hydroquinone | 0.1 g | C1(O)=CC=C(O)C=C1 | C6H6O2
catalyst | hydroquinone monomethyl ether | 0.1 g | COC1=CC=C(O)C=C1 | C7H8O2
product | 1,3-bis-(4-benzoyl-3-hydroxyphenoxy)-prop-2-yl acrylate | 40 g, 75 percent | C(C=C)(=O)OC(COC1=CC(=C(C=C1)C(C1=CC=CC=C1)=O)O)COC1=CC(=C(C=C1)C(C1=CC=CC=C1)=O)O | C32H26O8
